US09260363B2
An excess of 1.6 M n-BuLi in hexane (50 mL, 80 mmol) was added to a solution of 1-bromopyrene (20.4 g, 72.6 mmol) in 500 ml dry tetrahydrofuran at −78° C. under N2. The reaction mixture was then maintained at 0° C. for 1 h before cooling to −78° C. Trimethyl borate (10.4 g, 100 mmol) was added dropwise; the solution was then warmed slowly to room temperature and stirred for 24 h. 2N HCl (150 ml) was added and then the mixture was stirred for a further 1 h. The reaction mixture was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was evaporated in vacuo, and the residue was crystallized (n-hexane) to give the pyren-1-ylboronic acid 12.5 g as a yellow solid (70%)

reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 80 mmol, 50 mL | CCCCCC | C6H14
reactant | 1-bromopyrene | 72.6 mmol, 20.4 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | Trimethyl borate | 100 mmol, 10.4 g | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 2N, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | pyren-1-ylboronic acid | 12.5 g, 70% | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
